US05059597
a) 1-Benzyl-3-(2-chloroethylamino)-pyrrolidine-2,5-dione
74.8 g (0.4 mol) of N-benzylmaleimide are reacted with 58 g (0.5 mol) of 2-chloroethylamine hydrochloride and 50.5 g (0.5 mol) of triethylamine in accordance with the working instructions of Example Ia. After working up by chromatography, 81.6 g (77% of theory) of an oil with an RF value of 0.24 (on silica gel using ethyl acetate:petroleum ether=1:1) are obtained.

reactant | N-benzylmaleimide | 0.4 mol, 74.8 g | C(C1=CC=CC=C1)N1C(C=CC1=O)=O | C11H9NO2
reactant | 2-chloroethylamine hydrochloride | 0.5 mol, 58 g | Cl.ClCCN
reactant | triethylamine | 0.5 mol, 50.5 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Benzyl-3-(2-chloroethylamino)-pyrrolidine-2,5-dione | C(C1=CC=CC=C1)N1C(C(CC1=O)NCCCl)=O | C13H15ClN2O2
